### PR TITLE
Laurel Language Enhancements

### PR DESCRIPTION
**Pull request by fabiomadge**
## Summary

Expands the Laurel language with additional operators, data types, and verification constructs. Improves formatting across multiple dialects.

### Laurel Grammar & Translator
- New operators: `-`, `*`, `/`, `%`, `/t`, `%t` (truncating), `==>`, `!`, unary `-`
- Array support: `Array<T>` type, indexing, length
- Sequence operations: `Seq.From`, `Seq.Take`, `Seq.Drop`, `Seq.Contains`
- Constrained types with constraint injection into quantifiers
- Quantifiers: `forall`, `exists`
- Return statement works with postconditions
- While loops with multiple invariants
- Multiple `requires` clauses per procedure

### Infrastructure
- `NewlineSepBy` separator type for formatting preservation
- Java codegen: list separator preservation, `SourceRange` overloads
- Improved pretty printing for C_Simp, B3, Core

### CLI Commands
- `laurelParse`, `laurelAnalyze`, `laurelToCore`, `laurelPrint`

### Bug Fixes
- Fixed SMT encoding for multi-argument functions and `Map` type
- Added `substFvarLifting` for proper de Bruijn index handling

### Tests
- Reorganized Laurel tests T01-T17
- Added regression test for assignment lifting

### CODE REVIEW

**Review by andrewmwells-amazon — DISMISSED** [review]

File: Strata/Languages/Laurel/Laurel.lean [hunk 1]
```diff
@@ -77,22 +80,18 @@ inductive HighType : Type where
...
+  deriving Repr
 
 mutual
 
 structure Procedure : Type where
   name : Identifier
   inputs : List Parameter
   outputs : List Parameter
-  precondition : WithMetadata StmtExpr
-  determinism : Determinism
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/Laurel.lean:145]: What happened to `determinism`?

File: Strata/Languages/Laurel/Laurel.lean [hunk 2]
```diff
@@ -201,7 +195,7 @@ abbrev HighTypeMd := WithMetadata HighType
 abbrev StmtExprMd := WithMetadata StmtExpr
 
 theorem WithMetadata.sizeOf_val_lt {t : Type} [SizeOf t] (e : WithMetadata t) : sizeOf e.val < sizeOf e := by
-  cases e; grind
+  cases e <;> simp_wf <;> omega
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/Laurel.lean]: Merge accident?

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean [hunk 3]
```diff
@@ -11,296 +11,719 @@ import Strata.Languages.Core.Procedure
...
+def getArrayElemConstrainedType (env : TypeEnv) (arr : StmtExprMd) : Option Identifier :=
+  match arr.val with
+  | .Identifier name =>
+    if let some (_, { val := .Applied { val := .UserDefined "Array", ..} [{ val := .UserDefined elemName, ..}], ..}) := env.find? (fun (n, _) => n == name) then
+      some elemName
+    else none
+  | _ => none
+
+/-- Collect Array.Get accesses with constrained element types -/
+def collectConstrainedArrayAccesses (env : TypeEnv) (tcMap : TranslatedConstraintMap) (e : StmtExprMd) : List (StmtExprMd × StmtExprMd × TranslatedConstraint) :=
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/LaurelToCoreTranslator.lean:527]: Shouldn't the implementation of constraints be independent of the implementation of Arrays? If this is temporary code, can we mark it as such?

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean [hunk 4]
```diff
@@ -11,296 +11,719 @@ import Strata.Languages.Core.Procedure
...
+            let expandedArgs := expandArrayArgs env args coreArgs
+            pure (env, arrayElemAssumes ++ [Core.Statement.call lhsIdents callee expandedArgs])
+        | _ => throw "Assignments with multiple targets but without a RHS call should not be constructed"
+  | .IfThenElse cond thenBranch elseBranch => do
+      let bcond ← translateExpr ctMap tcMap env cond
+      let (_, bthen) ← translateStmt ctMap tcMap env outputParams postconds thenBranch
+      let belse ← match elseBranch with
+                  | some e => do let (_, s) ← translateStmt ctMap tcMap env outputParams postconds e; pure s
+                  | none => pure []
+      pure (env, arrayElemAssumes ++ [Imperative.Stmt.ite bcond bthen belse stmt.md])
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: Why does the translation of IfThenElse refer to arrayElemAssumes? That can't be right

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean [hunk 5]
```diff
@@ -11,296 +11,719 @@ import Strata.Languages.Core.Procedure
...
-  | @StmtExpr.Assume cond =>
-      let boogieExpr := translateExpr constants env cond
-      (env, [Core.Statement.assume ("assume" ++ getNameFromMd md) boogieExpr md])
-  | .Block stmts _ =>
-      let (env', stmtsList) := stmts.attach.foldl (fun (e, acc) ⟨s, _hs⟩ =>
-        let (e', ss) := translateStmt constants e outputParams s
-        (e', acc ++ ss)) (env, [])
-      (env', stmtsList)
-  | .LocalVariable name ty initializer =>
+def translateStmt (ctMap : ConstrainedTypeMap) (tcMap : TranslatedConstraintMap) (env : TypeEnv) (outputParams : List Parameter) (postconds : List (String × Core.Expression.Expr)) (stmt : StmtExprMd) : Except String (TypeEnv × List Core.Statement) := do
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: Why would you introduce assert statements related to postconditions? Core will already check that procedure bodies adhere to the postconditions of that procedure.

**Review by keyboardDrummer — CHANGES_REQUESTED** [review]

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean (hunk 5 above)
Comment (fabiomadge) [reply Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: These asserts are needed for early returns. Laurel's `return` is translated to `result := value; assert postconditions; assume false`. The `assume false` prevents fall-through but also makes the path vacuously true, so Core's VCG won't check postconditions on it.

Without the asserts, a postcondition-violating early return passes verification silently. I verified this by writing a Core program where the early return path sets `result := -x` (violating `ensures result >= 0`):
- Without the assert before `assume false`: ✅ pass (unsound)
- With the assert before `assume false`: ❌ fail (correct)

File: Strata/Languages/Laurel/Laurel.lean (hunk 1 above)
Comment (fabiomadge) [reply Strata/Languages/Laurel/Laurel.lean:145]: Intentionally removed in `67931730` — it was only ever set to `.nondeterministic` and never pattern-matched on.

File: Strata/Languages/Laurel/Laurel.lean (hunk 2 above)
Comment (fabiomadge) [reply Strata/Languages/Laurel/Laurel.lean]: Intentional. `omega` is simpler and more predictable than `grind` here, and it proves the goal.

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean (hunk 3 above)
Comment (fabiomadge) [reply Strata/Languages/Laurel/LaurelToCoreTranslator.lean:527]: Added a TODO. Array.Get is special because it's a built-in (SMT `select`), not a procedure call, so there's no contract to assume from. Other constrained type sources (procedure returns, field reads) get their assumes via contracts. If more built-ins return constrained types in the future, this should be generalized.

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean (hunk 4 above)
Comment (fabiomadge) [reply Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: Good catch — fixed in `fb9c7f60`. Compound statements (Block, IfThenElse, While) no longer generate arrayElemAssumes at the top level. Their sub-statements handle their own assumes via recursive `translateStmt` calls.

File: Strata/DDM/Parser.lean [hunk 6]
```diff
@@ -228,16 +228,19 @@ private partial def whitespace : ParserFn := fun c s =>
...
-        | some _ => s
+        | some tk => if tk.startsWith "/*" then s
+          else andthenFn (finishCommentBlock (pushMissingOnError := false)) whitespace c (s.next c (c.next j))
         | none =>
-          let j := c.next j
-          andthenFn (finishCommentBlock (pushMissingOnError := false)) whitespace c (s.next c j)
+          andthenFn (finishCommentBlock (pushMissingOnError := false)) whitespace c (s.next c (c.next j))
       | _ =>
         s
     else s
```
Comment (joehendrix) [inline Strata/DDM/Parser.lean]: This can be simplified with `Id.run do` + early return to eliminate the duplicated fallthrough arms, and the `startsWith` check can be replaced with a `utf8ByteSize` check — since `matchPrefix` returns a token that is a prefix of the input at `i`, and the input at `i` is `//...` or `/*...`, any token of length >= 2 necessarily covers both characters:

```suggestion
      | '/' => Id.run do
        -- Treat // as comment unless a token covering both chars exists (e.g., //@pre)
        if let some tk := c.tokens.matchPrefix c.inputString i then
          if tk.utf8ByteSize >= 2 then
            return s
        andthenFn (takeUntilFn (fun c => c = '\n')) whitespace c (s.next c j)
      | '*' => Id.run do
        -- Treat /* as comment unless a token covering both chars exists
        if let some tk := c.tokens.matchPrefix c.inputString i then
          if tk.utf8ByteSize >= 2 then
            return s
        andthenFn (finishCommentBlock (pushMissingOnError := false))
          whitespace c (s.next c (c.next j))
      | _ =>
        s
    else s
```

File: Strata/DDM/Integration/Java/Gen.lean [hunk 7]
```diff
@@ -308,17 +321,30 @@ def opDeclToJavaRecord (dialectName : String) (names : NameAssignments) (op : Op
...
-      | .simple "java.math.BigInteger" _ => (ps.push s!"long {f.name}", as.push s!"java.math.BigInteger.valueOf({f.name})")
-      | .simple "java.math.BigDecimal" _ => (ps.push s!"double {f.name}", as.push s!"java.math.BigDecimal.valueOf({f.name})")
-      | t => (ps.push s!"{t.toJava} {f.name}", as.push f.name)
+      | .simple "java.math.BigInteger" _ =>
+        (ps.push s!"long {f.name}",
+         as.push s!"java.math.BigInteger.valueOf({f.name})",
+         checks.push s!"if ({f.name} < 0) throw new IllegalArgumentException(\"{f.name} must be non-negative\");")
+      | .simple "java.math.BigDecimal" _ => (ps.push s!"double {f.name}", as.push s!"java.math.BigDecimal.valueOf({f.name})", checks)
+      | t => (ps.push s!"{t.toJava} {f.name}", as.push f.name, checks)
     let methodName := escapeJavaName op.name
```
Comment (joehendrix) [inline Strata/DDM/Integration/Java/Gen.lean]: The fold matches on `f.type` (the Java type), but the non-negative check only makes sense for `Init.Num` (natural numbers), not for every `BigInteger` field. Iterating over `op.argDecls` directly and matching on `decl.kind` makes this clearer and avoids the intermediate `argDeclToJavaField` call:

```suggestion
    -- ps: Java parameter declarations, as: constructor arguments, checks: validation statements
    let (ps, as, checks) := op.argDecls.toArray
        |>.foldl (init := (#[], #[], #[])) fun (ps, as, checks) decl =>
      let name := escapeJavaName decl.ident
      let cat := decl.kind.categoryOf.name
      if cat == q`Init.Num then
        -- Long parameter must be non-negative.
        (ps.push s!"long {name}",
         as.push s!"java.math.BigInteger.valueOf({name})",
         checks.push s!"if ({name} < 0) throw new IllegalArgumentException(\"{name} must be non-negative\");")
      else if cat == q`Init.Decimal then
        (ps.push s!"double {name}",
         as.push s!"java.math.BigDecimal.valueOf({name})",
         checks)
      else
        let t := (argDeclKindToJavaType decl.kind).toJava
        (ps.push s!"{t} {name}", as.push name, checks)
```

File: Strata/DDM/Format.lean [hunk 8]
```diff
@@ -399,6 +399,9 @@ private partial def ArgF.mformatM {α} : ArgF α → FormatM PrecFormat
   | .spacePrefix =>
     .atom <$> entries.foldlM (init := .nil) fun p a =>
       return (p ++ " " ++ (← a.mformatM).format)
+  | .newline =>
+    .atom <$> entries.foldlM (init := .nil) fun p a =>
+      return (if p.isEmpty then p else p ++ "\n") ++ (← a.mformatM).format
 
 private partial def ppArgs (f : StrataFormat) (rargs : Array Arg) : FormatM PrecFormat :=
   if rargs.isEmpty then
```
Comment (joehendrix) [inline Strata/DDM/Format.lean:419]: The seq formatting arms have repeated structure. Consider extracting three combinators before the `mutual` block (generalized over any monad):

```lean
private def formatJoin {m α} [Monad m] (f : α → m PrecFormat)
    (entries : Array α) : m PrecFormat :=
  .atom <$> entries.foldlM (init := .nil) fun p a =>
    return (p ++ (← f a).format)

private def formatSepBy {m α} [Monad m] (f : α → m PrecFormat)
    (entries : Array α) (sep : Format) : m PrecFormat :=
  if z : entries.size = 0 then
    pure (.atom .nil)
  else do
    let a := (← f entries[0]).format
    .atom <$> entries.size.foldlM
      (fun i _ s => return s ++ sep ++ (← f entries[i]).format)
      (start := 1) a

private def formatPrefixBy {m α} [Monad m] (f : α → m PrecFormat)
    (entries : Array α) (sep : Format) : m PrecFormat :=
  .atom <$> entries.foldlM (init := .nil) fun p a =>
    return (p ++ sep ++ (← f a).format)
```

Then all five cases collapse to:

```suggestion
  | .spacePrefix | .newline | .none | .comma | .space =>
    match sep with
    | .none        => formatJoin ArgF.mformatM entries
    | .comma       => formatSepBy ArgF.mformatM entries ", "
    | .space       => formatSepBy ArgF.mformatM entries " "
    | .newline     => formatSepBy ArgF.mformatM entries "\n"
    | .spacePrefix => formatPrefixBy ArgF.mformatM entries " "
```

Builds cleanly and removes ~15 lines of duplication.

File: Strata/DDM/Integration/Java/Gen.lean [hunk 9]
```diff
@@ -118,27 +120,38 @@ partial def syntaxCatToJavaType (cat : SyntaxCat) : JavaType :=
...
 
+/-- Get Ion separator name for a list category, or none if not a list. -/
+def getSeparator (c : SyntaxCat) : Option String :=
+  match c.name with
+  | q`Init.Seq => some "seq"
+  | q`Init.CommaSepBy => some "commaSepList"
+  | q`Init.NewlineSepBy => some "newlineSepList"
+  | q`Init.SpaceSepBy => some "spaceSepList"
+  | q`Init.SpacePrefixSepBy => some "spacePrefixedList"
+  | _ => none
```
Comment (joehendrix) [inline Strata/DDM/Integration/Java/Gen.lean]: I'm not sure when the toIonName stuff was introduced into Strata.DDM.AST, but I think it should be consolidated with this function (and maybe moved to Strata.DDM.Ion).

**Review by joehendrix — COMMENTED** [review]
I added a few suggestions, but this looks reasonable to me.  I'll approve this if you don't like the suggestions.

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean (hunk 5 above)
Comment (keyboardDrummer) [reply Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: > Laurel's return is translated to `result := value; assert postconditions; assume false`

Is that new? It's not mentioned in the PR. I think it would be better to encode a return using a jump than an `assume false`. With the assume false it would be incorrect when executing the code, since then the assume is ignored, and having to assert the postconditions introduces a lot of duplication.

File: Strata/Languages/Laurel/Laurel.lean (hunk 1 above)
Comment (keyboardDrummer) [reply Strata/Languages/Laurel/Laurel.lean:145]: I know it wasn't used but that doesn't mean it shouldn't be there. The whole AST wasn't used when it was first merged. Can you bring it back?

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean (hunk 5 above)
Comment (fabiomadge) [reply Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: You're right that `goto` would be better. I tried implementing it (`return value` → `result := value; goto "\$return"` with `\$return: {}` at the end of the body), and it works correctly for individual procedures.

However, I found a Core VCG issue: when a procedure has a `goto` inside an `if` branch, `processIteBranches` produces multiple `EnvWithNext` results, and these multiply across procedures via `ProgramEval.flatMap`. A second procedure's assertions get checked N times instead of once.

Filed as #419 with a proposed fix (merge paths by `nextLabel` in `processIteBranches`). Keeping `assume false` for now until that's resolved.

Comment (keyboardDrummer) [reply Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: > However, I found a Core VCG issue

Nice find! How did you find that?

I'm hesitant to merge the assert+assume solution for reasons that I think you identified as well:
- It works with an analysis that respects `assume false` but not one that ignores it, like concrete execution.
- It duplicates the postconditions for each return so it breaks our goal of having transformations that are linear in size.

The current PythonToCore translation uses the goto approach, so to support moving that over to Laurel, we could use the goto approach as well.

I'm also ok with using the assert+assume approach if we sufficiently document that it is a temporary solution.

File: StrataTest/Languages/Laurel/Examples/Fundamentals/T03_Variables.lean
Comment (keyboardDrummer) [inline StrataTest/Languages/Laurel/Examples/Fundamentals/T03_Variables.lean:1]: Why the rename of this test?

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean [hunk 10]
```diff
@@ -72,268 +295,612 @@ Translate Laurel StmtExpr to Core Expression.
...
+        pure stmts
+    -- because Core does not support procedures without a body, we add an assume false
+    | _ => pure [Core.Statement.assume "no_body" (.const () (.boolConst false)) .empty]
+  pure <| Core.Decl.proc ({
     header := header
     spec := spec
     body := body
+  }) .empty
+
+def arrayTypeSynonym : Core.Decl := .type (.syn { name := "Array", typeArgs := ["T"], type := .tcons "Map" [.int, .ftvar "T"] })
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: Can you move these static Core definition to `CorePrelude.lean` ?

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean [hunk 11]
```diff
@@ -72,268 +295,612 @@ Translate Laurel StmtExpr to Core Expression.
...
+  -- Translate explicit preconditions
+  let mut explicitPreconditions : List (Core.CoreLabel × Core.Procedure.Check) := []
+  for h : i in [:proc.preconditions.length] do
+    let precond := proc.preconditions[i]
+    let expr ← translateExpr ctMap tcMap constants initEnv precond
+    let check : Core.Procedure.Check := { expr, md := precond.md }
+    explicitPreconditions := explicitPreconditions ++ [(s!"{proc.name}_pre_{i}", check)]
+  let preconditions := inputConstraints ++ arrayLenConstraints ++ explicitPreconditions
+  -- Generate constraint checks for output parameters with constrained types
+  let outputConstraints : List (Core.CoreLabel × Core.Procedure.Check) ←
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: Can you generate the implicit pre and postconditions in a separate pass in a separate file?

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean [hunk 12]
```diff
@@ -72,268 +295,612 @@ Translate Laurel StmtExpr to Core Expression.
...
-        let check : Core.Procedure.Check := { expr := translateExpr constants initEnv precond, md := precond.md }
-        [("requires", check)]
+  -- Generate constraint checks for input parameters with constrained types
+  let inputConstraints : List (Core.CoreLabel × Core.Procedure.Check) ←
+    proc.inputs.filterMapM (fun p => do
+      match genConstraintCheck ctMap tcMap p with
+      | some expr => pure (some (s!"{proc.name}_input_{p.name}_constraint", { expr, md := p.type.md }))
+      | none => pure none)
+  -- Array lengths are implicitly >= 0
+  let arrayLenConstraints : List (Core.CoreLabel × Core.Procedure.Check) :=
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: Can you move everything related to arrays to a separate file? Can you elaborate on the design of Array support? How come it's not a Laurel library? The length constraint seems like a type invariant or constrained type.

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean [hunk 13]
```diff
@@ -30,31 +31,253 @@ open Std (Format ToFormat)
...
+/-- Normalize callee name by removing «» quotes if present -/
+def normalizeCallee (callee : Identifier) : Identifier :=
+  if callee.startsWith "«" && callee.endsWith "»" then
+    (callee.drop 1 |>.dropEnd 1).toString
+  else
+    callee
+
+/-- Extract sequence bounds from Seq.From/Take/Drop chain.
+    Note: Seq.From only works with simple Identifier arguments; complex expressions are not supported. -/
+def translateSeqBounds (env : TypeEnv) (expr : StmtExprMd) : Except String SeqBounds :=
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: Can everything related to sequences be in a separate file? Can it be a separate pass?

File: StrataTest/Languages/Laurel/Examples/Fundamentals/T11_Arrays.lean [hunk 14]
```diff
@@ -0,0 +1,42 @@
+/-
```
Comment (keyboardDrummer) [inline StrataTest/Languages/Laurel/Examples/Fundamentals/T11_Arrays.lean:1]: Can you move  and Sequence support tests into a separate folder?

**Review by keyboardDrummer — CHANGES_REQUESTED** [review]

File: Strata/Languages/Laurel/LaurelToCoreTranslator.lean [hunk 15]
```diff
@@ -30,407 +26,924 @@ open Std (Format ToFormat)
...
+      | some value => do
+          let coreExpr ← translateExpr ctMap tcMap env value
+          mkReturnStmts (some coreExpr)
+      | none => mkReturnStmts none
+  | _ =>
+      -- Expression-like statements: treat as implicit return if output param exists
+      match outputParams.head? with
+      | some _ => do
+          let coreExpr ← translateExpr ctMap tcMap env stmt
+          mkReturnStmts (some coreExpr)
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/LaurelToCoreTranslator.lean]: Is this the scenario where we return "naturally" because we reach the end of a block? Since this is not a jump, should we not call something different than `mkReturnStmt` which does do a jump?

File: Strata/Languages/Laurel/Grammar/LaurelGrammar.st [hunk 16]
```diff
@@ -14,53 +15,78 @@ op string (s: Str): StmtExpr => s;
...
 
 op ifThenElse (cond: StmtExpr, thenBranch: StmtExpr, elseBranch: Option OptionalElse): StmtExpr =>
-  @[prec(20)] "if (" cond ") " thenBranch:0 elseBranch:0;
+  @[prec(20)] "if (" cond ") " thenBranch:0 " " elseBranch:0;
 
 op assert (cond : StmtExpr) : StmtExpr => "assert " cond ";";
 op assume (cond : StmtExpr) : StmtExpr => "assume " cond ";";
 op return (value : StmtExpr) : StmtExpr => "return " value ";";
-op block (stmts : Seq StmtExpr) : StmtExpr => @[prec(1000)] "{" stmts "}";
+op block (stmts : NewlineSepBy StmtExpr) : StmtExpr => @[prec(1000)] "{" indent(2, "\n" stmts) "\n}";
```
Comment (keyboardDrummer) [inline Strata/Languages/Laurel/Grammar/LaurelGrammar.st]: The `indent(2, ` is never used anywhere, right? I don't think we're ever printing Laurel through the DDM. Why did you add this?

File: Strata/DDM/Elab.lean [hunk 17]
```diff
@@ -71,6 +71,11 @@ private partial def runCommand (leanEnv : Lean.Environment) (commands : Array Op
     return commands
   let (some tree, true) ← runChecked <| elabCommand leanEnv
     | return commands
+  -- Prevent infinite loop if parser makes no progress
```
Comment (keyboardDrummer) [inline Strata/DDM/Elab.lean:73]: This is great!!

File: Strata/DDM/Integration/Lean/Gen.lean [hunk 18]
```diff
@@ -710,6 +710,9 @@ partial def genCatTypeTerm (annType : Ident) (c : SyntaxCat)
   | q`Init.SpacePrefixSepBy, 1 =>
     let inner := mkCApp ``Array #[args[0]]
     return if addAnn then mkCApp ``Ann #[inner, annType] else inner
+  | q`Init.NewlineSepBy, 1 =>
```
Comment (keyboardDrummer) [inline Strata/DDM/Integration/Lean/Gen.lean:706]: Can you say more about this NewlineSepBy operator? What is it for?

**Comment by joehendrix** [comment]
@fabiomadge  What's the current status of this PR?

There are some open comments, but it's a little unclear if this is being worked on or needs more review.

**Comment by fabiomadge** [comment]
I'm in the process of splitting it up further. Two PRs have already been merged. I'll ping you once the next batch is ready for review. For now, I'll draft this one.
